US07659268B2
To a stirred solution of methyl 3-bromo-5-nitrobenzoate (1.0 g, 3.8 mmol) in methanol (30 mL) was added NiCl2-6 H2O (1.8 g, 7.6 mmol) and NaBH4 (430 mg, 11 mmol) successively at 0° C. The reaction mixture was stirred for 30 seconds and was then quenched by the addition of water. The mixture was extracted with ethyl acetate (30 mL×3). The combined organic layers were washed with brine and water, dried over anhydrous Na2SO4, and concentrated under vacuum to afford methyl 3-amino-5-bromobenzoate (860 mg, 97% yield). 1H NMR (400 MHz, d-DMSO) δ 7.14 (dd, J=2.0, 2.4 Hz, 1H), 7.11 (t, J=2.4 Hz, 1H), 6.94 (t, J=2.8 Hz, 1H), 5.72 (brs, 2H), 3.79 (s, 3H).

reactant | methyl 3-bromo-5-nitrobenzoate | 3.8 mmol, 1.0 g | BrC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C8H6BrNO4
reactant | NaBH4 | 11 mmol, 430 mg | [BH4-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | methyl 3-amino-5-bromobenzoate | 860 mg, 97% yield | NC=1C=C(C(=O)OC)C=C(C1)Br | C8H8BrNO2
